US04663453
4-Methyl-N-[5-bromo-2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazinecarboxamide
1-(4-Bromo-2-aminophenyl)-1,2,3,4-tetrahydroquinoline (10.6 g, 0.035 mole) was dissolved on a steam bath in dichloromethane (150 ml). The solution was cooled to -5° C. in ice/methanol and triethylamine (5.01 g, 0.050 mole) was added in one portion, followed by a solution of phenylchloroformate (7.85 g, 0.050 mole) dissolved in dichloromethane (10 ml), dropwise over 15 minutes. The mixture was stirred 1 hour in the cold, 2 hours at room temperature, and an additional charge of phenylchloroformate (1.57 g, 0.010 mole) was added. After one hour, a solution of N-methylpiperazine (14.1 g, 0.14 mole) dissolved in dichloromethane (15 ml) was added over 0.5 hour. The reaction mixture was stirred under nitrogen at room temperature overnight. Water (100 ml) was added and the mixture was stirred 0.5 hour. The organic phase was separated, washed 4 times with water, dried over anhydrous sodium sulfate, and evaporated in a 100° C. bath in vacuo. The residue was dissolved in toluene (40 ml), adsorbed on a column of silica gel (500 g) packed in toluene and eluted with dichloromethane-methanol (98:2). The appropriate fractions were combined and evaporated to give 9.2 g (61%) of product, as an oil.

reactant | 1-(4-Bromo-2-aminophenyl)-1,2,3,4-tetrahydroquinoline | 0.035 mole, 10.6 g | BrC1=CC(=C(C=C1)N1CCCC2=CC=CC=C12)N | C15H15BrN2
reactant | triethylamine | 0.050 mole, 5.01 g | C(C)N(CC)CC | C6H15N
reactant | phenylchloroformate | 0.050 mole, 7.85 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | phenylchloroformate | 0.010 mole, 1.57 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | N-methylpiperazine | 0.14 mole, 14.1 g | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | 4-Methyl-N-[5-bromo-2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazinecarboxamide | 9.2 g, 61% | CN1CCN(CC1)C(=O)NC1=C(C=CC(=C1)Br)N1CCCC2=CC=CC=C12 | C21H25BrN4O
